US05502028
(a) 4,6-Dimethoxy-2-(α-fluorobenzyl) pyrimidine
Dimethyl malonimidate dihydrochloride (11.0 g) was suspended in dichloromethane (100 ml) at -40° C. Ethyl diisopropylamine (38.9 ml) was added dropwise over 15 minutes at -40° C., followed by 2-fluoro-2-phenylacetyl chloride (11.0 g) in dichloromethane (15 ml) over 10 minutes at -40° C. The reaction mixture was allowed to warm to room temperature and stand overnight. It was then diluted further with dichloromethane, washed with ammonium chloride solution, then with water, and was dried over magnesium sulfate. The dichloromethane solution was evaporated to dryness to give 13.9 g of the desired product.

reactant | Dimethyl malonimidate dihydrochloride | 11.0 g | Cl.Cl.C(CC(OC)=N)(OC)=N
reactant | Ethyl diisopropylamine | 38.9 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-fluoro-2-phenylacetyl chloride | 11.0 g | FC(C(=O)Cl)C1=CC=CC=C1 | C8H6ClFO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4,6-Dimethoxy-2-(α-fluorobenzyl) pyrimidine | 13.9 g | COC1=NC(=NC(=C1)OC)C(C1=CC=CC=C1)F | C13H13FN2O2
